US09212152B2
Preparation of N-hydroxy-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine
To a suspension of sodium hydroxyde (115 mg, 2.9 mmol) in 1.5 mL ethanol was added 500 mg of 5-benzyl-1-methyl-1H-tetrazole (2.9 mmol). The mixture was stirred 15 min at room temperature. A solution of isoamylnitrite (353 mg, 3 mmol) in 1 mL ethanol was then added dropwise and the mixture was stirred at room temperature for 16 h. Ether and water were then added and the layers were separated. The aqueous phase was washed with ether and then acidified with HCl 0.1M. The resulting neutral solution was extracted 3 times with ethyl acetate. The organic layers were combined, dried over magnesium sulfate and concentrated to afford 272 mg of the title compound (Z:E mixture) as a white solid.

reactant | sodium | [Na] | Na
reactant | 5-benzyl-1-methyl-1H-tetrazole | 2.9 mmol, 500 mg | C(C1=CC=CC=C1)C1=NN=NN1C | C9H10N4
reactant | isoamylnitrite | 3 mmol, 353 mg | C(CC(C)C)ON=O | C5H11NO2
reactant | Ether | CCOCC | C4H10O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | N-hydroxy-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 272 mg | ON=C(C1=CC=CC=C1)C1=NN=NN1C | C9H9N5O
